US08377943B2
e) Method of Synthesising N-(2-aminomethyl-5-methyl-phenyl)-N-methyl-methane-sulphonamide (B-2a)
N-(2-cyano-5-methyl-phenyl)-N-methyl-methanesulphonamide (B-1a) (10.0 g, 44.6 mmol) is dissolved in 60 mL MeOH and 20 mL methanolic ammonia (7 M) in a hydrogenating autoclave and combined with Raney nickel in EtOH (1 g). The reaction mixture is then hydrogenated at 3 bar H2 and 80° C. for 16 h. After the reaction has ended the reaction mixture is filtered and the filtrate is mixed with ethanolic HCl (4.5 mL, 10 M). The precipitate formed is filtered off and the solid B-2a (HPLC-MS: tRet.=1.03 min; MS (M+H)+=229) is used without any further purification.

reactant | N-(2-cyano-5-methyl-phenyl)-N-methyl-methanesulphonamide | 44.6 mmol, 10.0 g | C(#N)C1=C(C=C(C=C1)C)N(S(=O)(=O)C)C | C10H12N2O2S
reactant | ammonia | 7 M, 20 mL | N | H3N
solvent | MeOH | 60 mL | CO | CH4O
catalyst | Raney nickel | [Ni] | Ni
solvent | EtOH | 1 g | CCO | C2H6O
product | N-(2-aminomethyl-5-methyl-phenyl)-N-methyl-methane-sulphonamide | NCC1=C(C=C(C=C1)C)N(S(=O)(=O)C)C | C10H16N2O2S
